US08247401B2
Step C: 3-(5-Methylpyridin-2-yl)-5-[(R/S)-2,2,2-trifluoro-1-hydroxyethyl]benzoic acid
To a solution of tert-butyl 3-(5-methylpyridin-2-yl)-5-(2,2,2-trifluoro-1-hydroxyethyl)benzoate (3.25 g, 8.85 mmol) in dichloromethane (15 mL) was added hydrogen chloride (4.0 M in dioxane; 11.1 mL, 44.2 mmol). The reaction mixture was stirred at ambient temperature. After 18 h, the mixture was concentrated. Dichloromethane was added the suspension was filtered. The solid cake was washed with dihchloromethane and dried under reduced pressure to give the hydrochloride salt of the title compound. MS 312.1 (M+1).

reactant | tert-butyl 3-(5-methylpyridin-2-yl)-5-(2,2,2-trifluoro-1-hydroxyethyl)benzoate | 8.85 mmol, 3.25 g | CC=1C=CC(=NC1)C=1C=C(C(=O)OC(C)(C)C)C=C(C1)C(C(F)(F)F)O | C19H20F3NO3
reactant | hydrogen chloride | 44.2 mmol, 4.0 M, 11.1 mL | Cl | ClH
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 3-(5-Methylpyridin-2-yl)-5-[(R/S)-2,2,2-trifluoro-1-hydroxyethyl]benzoic acid | CC=1C=CC(=NC1)C=1C=C(C(=O)O)C=C(C1)C(C(F)(F)F)O | C15H12F3NO3
